US04885152
After a mixture of 181 mg of N'-(4-chlorophenyl)-N-(2-iodobenzoyl)-N'-methylethylenediamine, 925 mg of phosphorus pentoxide and 4 ml of phosphorus oxychloride had been stirred at 115° C. to 120° C. for 4 hours, the reaction mixture was allowed to cool and poured into ice water to decompose an excess of the reagents. After having been washed with ether, the aqueous phase was alkalized with sodium carbonate and then extracted with ethyl acetate. After the organic phase had been washed with water, distilling off the solvent therefrom gave 164 mg of 7-chloro-2,3-dihydro-5-(2-iodophenyl)-1-methyl-1H-1,4-benzodiazepine.

reactant | N'-(4-chlorophenyl)-N-(2-iodobenzoyl)-N'-methylethylenediamine | 181 mg | ClC1=CC=C(C=C1)N(CCNC(C1=C(C=CC=C1)I)=O)C | C16H16ClIN2O
reactant | phosphorus pentoxide | 925 mg | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | phosphorus oxychloride | 4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-2,3-dihydro-5-(2-iodophenyl)-1-methyl-1H-1,4-benzodiazepine | 164 mg | ClC=1C=CC2=C(C(=NCCN2C)C2=C(C=CC=C2)I)C1 | C16H14ClIN2
